US06147255
260 mg (0.5 mmol) of tetrakis(triphenylphosphine)palladium(0), 50 ml of toluene and 2.59 g (10.9 mmol) of ethyl 2-bromo-4-thiophenecarboxylate are introduced into a three-necked flask under a stream of nitrogen and the mixture is stirred at room temperature for 20 minutes. 3.7 g (16.5 mmol) of 3-tert-butyl-4-methoxyphenylboronic acid and 11 ml of aqueous sodium carbonate solution (2 N) are then added and the mixture is refluxed for 8 hours. The reaction medium is evaporated to dryness, the residue is taken up in water and ethyl ether and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue is purified by chromatography on a column of silica eluted with a mixture of ethyl acetate and heptane (10/90% by volume). 3.53 g (69%) of ethyl 2-(3-tert-butyl-4-methoxyphenyl)-4-thiophenecarboxylate are obtained.

reactant | ethyl 2-bromo-4-thiophenecarboxylate | 10.9 mmol, 2.59 g | BrC=1SC=C(C1)C(=O)OCC | C7H7BrO2S
reactant | 3-tert-butyl-4-methoxyphenylboronic acid | 16.5 mmol, 3.7 g | C(C)(C)(C)C=1C=C(C=CC1OC)B(O)O | C11H17BO3
reactant | sodium carbonate | 2 N, 11 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.5 mmol, 260 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(3-tert-butyl-4-methoxyphenyl)-4-thiophenecarboxylate | 3.53 g, 69% | C(C)(C)(C)C=1C=C(C=CC1OC)C=1SC=C(C1)C(=O)OCC | C18H22O3S
